US06335445B1
16.2) 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(3-aminophenyl)methyl]-benzamide
In a 250 ml Parr flask, 2.40 g (6.2 mmoles) of 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(3-nitrophenyl)methyl]-benzamide is dissolved in 45 ml of an absolute ethanol/THF mixture (1/2) in the presence of 10% Pd/C. The mixture is agitated under 20 PSI of hydrogen, at 30° C., for three hours. After filtration on celite, the filtrate is concentrated to dryness and the residue is purified on a silica column (eluant: heptane/ethyl acetate: 60/40). The pure fractions are collected and concentrated under reduced pressure to produce 0.94 g (45%) of a white powder. Melting point: 171-172° C.

reactant | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(3-nitrophenyl)methyl]-benzamide | 6.2 mmoles, 2.40 g | CC(C)(C)C=1C=C(C(=O)NCC2=CC(=CC=C2)[N+](=O)[O-])C=C(C1O)C(C)(C)C | C22H28N2O4
reactant | hydrogen | [H][H] | H2
solvent | ethanol THF | 45 ml | C(C)O.C1CCOC1
solvent | Pd/C | [Pd] | Pd
product | 3,5-bis-(1,1-dimethylethyl)-4-hydroxy-N-[(3-aminophenyl)methyl]-benzamide | 0.94 g, 45% | CC(C)(C)C=1C=C(C(=O)NCC2=CC(=CC=C2)N)C=C(C1O)C(C)(C)C | C22H30N2O2
